US06627644B2
To a solution of morpholin-4-yl-(4-{[(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidin-1-yl)-methanone (540 mg, 1.2 mmol) in ethanol (30 mL) was added 10% palladium on charcoal (50 mg). The solution was shaken on a Parr shaker for 24 h at 55 psi of hydrogen. The solution was filtered through Celite® and concentrated to afford (4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidin-1-yl)-morpholin-4-yl-methanone (432 mg) 95, [M+H]+=415; which was used directly.

reactant | morpholin-4-yl-(4-{[(7-nitro-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidin-1-yl)-methanone | 1.2 mmol, 540 mg | N1(CCOCC1)C(=O)N1CCC(CC1)CN(CCC)C1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C24H36N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | (4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidin-1-yl)-morpholin-4-yl-methanone | 432 mg | NC1=CC=C2CCC(CC2=C1)N(CCC)CC1CCN(CC1)C(=O)N1CCOCC1 | C24H38N4O2
